US07429665B2
2-{3-Fluoro-4-[4-pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline
Following the procedure for the preparation of 2-[3-Fluoro4-(1-methyl4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting 3-Fluoro4-[4-pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenol and acetone as the solvent provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.46 (m, 2 H), 7.80 (s, 1H), 7.31 (t, J=8.3 Hz, 1H), 7.24 (m, 5 H), 6.72 (dd, J=8.3, 2.5 Hz, 1 H), 6.50 (dd, J=11.6, 2.1 Hz, 1 H), 4.81 (q, J=8.4 Hz, 2H); MS: (M+H m/z=479.2).

reactant | 2-[3-Fluoro4-(1-methyl4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | FC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1C1=NN(C=C1C1=CC=NC=C1)C | C25H19FN4O
reactant | 3-Fluoro4-[4-pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenol | FC=1C=C(C=CC1C1=NN(C=C1C1=CC=NC=C1)CC(F)(F)F)O | C16H11F4N3O
solvent | acetone | CC(=O)C | C3H6O
product | 2-{3-Fluoro-4-[4-pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline | FC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1C1=NN(C=C1C1=CC=NC=C1)CC(F)(F)F | C26H18F4N4O
